US05034417
A mixture of 3-(2,4-difluorophenylamino)-4-nitrobenzonitrile (6.9 g) and 24% sodium hydroxide solution (50 ml) in ethanol (50 ml) was refluxed for 2 hours. The mixture was poured into ice-water (400 ml) and acidified with hydrochloric acid. The precipitate was filtered and washed with water to give red brown needles of 3-(2,4-difluorophenylamino)-4-nitrobenzoic acid (7.1 g).

reactant | 3-(2,4-difluorophenylamino)-4-nitrobenzonitrile | 6.9 g | FC1=C(C=CC(=C1)F)NC=1C=C(C#N)C=CC1[N+](=O)[O-] | C13H7F2N3O2
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | 3-(2,4-difluorophenylamino)-4-nitrobenzoic acid | 7.1 g | FC1=C(C=CC(=C1)F)NC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C13H8F2N2O4
